US08685969B2
1. 4-Bromo-3-((dimethylamino)methyl)-1H-indole-7-carboxamide
Acetic acid (1.15 mL, 20.08 mmol) was added to a suspension of 4-bromo-1H-indole-7-carboxamide (3 g, 12.55 mmol), paraformaldehyde (0.603 g, 20.08 mmol) and dimethylamine (2 M in methanol, 10 mL, 20.08 mmol) in ethanol (50 mL). The mixture was heated to 80° C. After 2 h, the ethanol was removed under vacuum. The residue was partitioned between NaHCO3 (aq) and EtOAc. The organic phase was washed with brine (15 mL), dried and concentrated to afford the crude desired product as a light brown solid (4.08 g). LCMS (M+H)+ m/z 295.8, 297.8.

reactant | Acetic acid | 20.08 mmol, 1.15 mL | C(C)(=O)O | C2H4O2
reactant | 4-bromo-1H-indole-7-carboxamide | 12.55 mmol, 3 g | BrC1=C2C=CNC2=C(C=C1)C(=O)N | C9H7BrN2O
reactant | paraformaldehyde | 20.08 mmol, 0.603 g | C=O | CH2O
reactant | dimethylamine | 20.08 mmol, 2 M, 10 mL | CNC | C2H7N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-Bromo-3-((dimethylamino)methyl)-1H-indole-7-carboxamide | 4.08 g | BrC1=C2C(=CNC2=C(C=C1)C(=O)N)CN(C)C | C12H14BrN3O
